US04328380
Preparation of 3-(p-tert.-butyl-o-bromo-phenyl)-2-methyl-propyl chloride
16 parts by weight of bromine are added dropwise to a mixture of 23 parts by weight of 3-(p-tert.-butyl-phenyl)-2-methyl-propyl chloride and 0.5 part by weight of iron powder. The reaction temperature rises to 35° C. Stirring is continued for 17 hours, the product is dissolved in chloroform, the solution is washed with water, with aqueous NaHCO3 solution and again with water and is dried over Na2SO4, the solvent is evaporated and the residue is distilled.

reactant | bromine | BrBr | Br2
reactant | 3-(p-tert.-butyl-phenyl)-2-methyl-propyl chloride | C(C)(C)(C)C1=CC=C(C=C1)CC(CCl)C | C14H21Cl
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | iron | [Fe] | Fe
product | 3-(p-tert.-butyl-o-bromo-phenyl)-2-methyl-propyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)CC(CCl)C)Br | C14H20BrCl
